US08211892B2
0.8 g of 4-(5-(piperazin-1-yl)pyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester is placed in a 25 ml round-bottomed flask. 10 ml of dichloromethane are added, followed by 0.37 ml of triethylamine and finally 0.23 ml of ethylsulphonyl chloride. The reaction mixture is stirred at ambient temperature for 3 h, then washed twice with water and once with a saturated sodium chloride solution and then evaporated under reduced pressure. 0.98 g of 4-[5-(4-(ethanesulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester is obtained.

reactant | 4-(5-(piperazin-1-yl)pyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 0.8 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCNCC1 | C22H29N5O2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | ethylsulphonyl chloride | 0.23 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | triethylamine | 0.37 ml | C(C)N(CC)CC | C6H15N
product | 4-[5-(4-(ethanesulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 0.98 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC | C24H33N5O4S
